US07943622B2
Step 4. Synthesis of 1-benzyl 4-tert-butyl 2-(2-(pyridin-3-yl)ethyl)piperazine-1,4-dicarboxylate
9-Borabicyclo[3.3.1]nonane (0.5M solution in THF, 54 mL, 27 mmol) was added to 1-benzyl 4-tert-butyl 2-vinylpiperazine-1,4-dicarboxylate (2.33 g, 6.73 mmol). After 3 h, 3-bromopyridine (0.99 mL, 10.1 mmol), triphenylphosphine (0.53 g, 2.0 mmol), and tetrakis(triphenylphosphine) palladium(0) (0.311 g, 0.27 mmol) were added. Sodium hydroxide (1N aqueous solution, 16.8 mL, 16.8 mmol) was added slowly. Once bubbling ceased, the reaction mixture was heated to reflux overnight. Upon cooling to rt, the reaction mixture was diluted with water (200 mL) and extracted with EtOAc (3×200 mL). The combined organics were dried over Na2SO4, filtered, and concentrated under reduced pressure. Purification by column chromatography (10 to 40% EtOAc in Hexane gradient) gave 1.79 g (63%) of the desired product as a thick oil. Rf=0.57 in 80% EtOAc/Hexane. LC-MS: RT=7.69 min., [M+H]+=426.2. The material was contaminated with ˜15% triphenylphosphine, and was used without further purification.

reactant | 9-Borabicyclo[3.3.1]nonane | 27 mmol, 0.5M, 54 mL | C12CCCC(CCC1)B2 | C8H15B
reactant | 1-benzyl 4-tert-butyl 2-vinylpiperazine-1,4-dicarboxylate | 6.73 mmol, 2.33 g | C(=C)C1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C19H26N2O4
reactant | 3-bromopyridine | 10.1 mmol, 0.99 mL | BrC=1C=NC=CC1 | C5H4BrN
reactant | triphenylphosphine | 2.0 mmol, 0.53 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Sodium hydroxide | 16.8 mmol, 1N, 16.8 mL | [OH-].[Na+]
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.27 mmol, 0.311 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-benzyl 4-tert-butyl 2-(2-(pyridin-3-yl)ethyl)piperazine-1,4-dicarboxylate | 1.79 g, 63% | N1=CC(=CC=C1)CCC1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C24H31N3O4
